US04812570
To a mixed solution of 5-ethyl-2-pyridine ethanol (6.0 kg), benzyltributylammonium chloride (6.2 kg of 50% aqueous solution), 1,2-dichloroethane (30 l) and p-toluenesulfonylchloride (9.2 kg) was added dropwise 8N aqueous solution (10 l) of sodium hydroxide at 25° C. After the solution was stirred at 22°±3° C. for 4 hours, p-hydroxybenzaldehyde (5.9 kg) and 3N solution (16 l) of sodium hydroxide, were added, and the mixed solution was stirred at 57°±3° C. for 15 hours. After the solution was cooled, water (70 l) was added. The aqueous layer was separated and subjected to extraction with 1,2-dichloroethane (20 l). The organic layers were combined and the combined layer was washed three times with 0.1N aqueous solution of sodium hydroxide and three times with water (30 l). The organic layer was concentrated at not higher than 45° C. under a reduced pressure, whereby 4 -[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde was obtained as an oil. Quantitative analysis by HPLC (high performance liquid chromatography) showed that 5.98 kg (59.0%) of 4-[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde was included in this crude product.

reactant | 5-ethyl-2-pyridine ethanol | 6.0 kg | C(C)C=1C=CC(=NC1)CCO | C9H13NO
reactant | p-toluenesulfonylchloride | 9.2 kg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-hydroxybenzaldehyde | 5.9 kg | OC1=CC=C(C=O)C=C1 | C7H6O2
catalyst | benzyltributylammonium chloride | 6.2 kg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | water | 70 l | O | H2O
solvent | 1,2-dichloroethane | 30 l | ClCCCl | C2H4Cl2
product | 4 -[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde | C(C)C=1C=CC(=NC1)CCOC1=CC=C(C=O)C=C1 | C16H17NO2
